US03974219
Example 34 was repeated, except that 0.05 mole of phosphorous diisopropyl ester was used in place of phosphorous monoethyl ester and 0.05 mole of N-methylaniline was used in place of aniline, to obtain N-methylacetanilide, yield 53% based on N-methylaniline.

reactant | phosphorous diisopropyl ester | 0.05 mole | C(C)(C)OP(OC(C)C)O | C6H15O3P
reactant | N-methylaniline | 0.05 mole | CNC1=CC=CC=C1 | C7H9N
product | N-methylacetanilide | yield 53% | CN(C1=CC=CC=C1)C(C)=O | C9H11NO
